US07893059B2
5-Chloro-2-iodo-7-morpholinothiazolo[5,4-d]pyrimidine was reacted with 3-(methylsulfonyl)phenylboronic acid via General Procedure A to give crude 5-chloro-2-(3-(methylsulfonyl)phenyl)-7-morpholinothiazolo[5,4-d]pyrimidine, which was then reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine via General Procedure A again to give 132 after purification by reverse HPLC. MS (Q1) 470 (M+)

reactant | 5-Chloro-2-iodo-7-morpholinothiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)I)N2CCOCC2 | C9H8ClIN4OS
reactant | 3-(methylsulfonyl)phenylboronic acid | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 5-chloro-2-(3-(methylsulfonyl)phenyl)-7-morpholinothiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)C2=CC(=CC=C2)S(=O)(=O)C)N2CCOCC2 | C16H15ClN4O3S2
